US03951989
To a solution of 0.274 part of 2-bromo-4-hydroxythieno[2,3-b]pyridine-5-carboxylic acid in 3 parts by volume of a 2N aqueous solution of potassium hydroxide is added 0.24 part by volume of dimethyl sulfate. Treatment of the mixture in the manner described in Example 20 gives 2-bromo-4,7-dihydro-7-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylic acid as crystals. Recrystallization from dimethylformamide-water gives colorless needles melting at 288°-290°C.

reactant | 2-bromo-4-hydroxythieno[2,3-b]pyridine-5-carboxylic acid | BrC1=CC=2C(=NC=C(C2O)C(=O)O)S1 | C8H4BrNO3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | 2-bromo-4,7-dihydro-7-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylic acid | BrC1=CC2=C(N(C=C(C2=O)C(=O)O)C)S1 | C9H6BrNO3S
